US08084457B2
To a solution of 4-(6-Chloro-pyrimidin-4-yl-amino)-benzoic acid methyl ester, (0.1 g, 0.38 mmol) in THF (3 mL), LiOH×H2O (0.017 g, 0.42 mmol) dissolved in H2O (1 mL) was added and the mixture stirred at room temperature for 18 h. The reaction mixture was then diluted with H2O (5 mL) and extracted with EtOAc (2×). The water layer was acidified (2.5M HCl) and extracted with EtOAc (3×). The combined organic layers were dried (MgSO4) and the solvent evaporated under reduced pressure to afford 4-(6-Chloro-pyrimidin-4-yl-amino)-benzoic acid, as a pale yellow solid.

reactant | 4-(6-Chloro-pyrimidin-4-yl-amino)-benzoic acid methyl ester | 0.38 mmol, 0.1 g | COC(C1=CC=C(C=C1)NC1=NC=NC(=C1)Cl)=O | C12H10ClN3O2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | LiOH | [Li+].[OH-]
solvent | H2O | 1 mL | O | H2O
solvent | H2O | 5 mL | O | H2O
solvent | H2O | 0.42 mmol, 0.017 g | O | H2O
product | 4-(6-Chloro-pyrimidin-4-yl-amino)-benzoic acid | ClC1=CC(=NC=N1)NC1=CC=C(C(=O)O)C=C1 | C11H8ClN3O2
